US05112977
2-(3-Butenoxy)-naphthacene-5,12-dione
10 g (0.036 mol) of 2-fluoro-5,12-naphthacenequinone, 26 g (0.028 mol) of Cs2CO3 and 10.41 g (0.14 mol) of 3-butanol are introduced into 200 ml of DMF under nitrogen. The reaction mixture is heated to 125° C. and stirred for 41/2 h. After precipitation in 4000 ml of water containing hydrochloric acid, the product is filtered off (crude yield 94%). Chromatography on silica gel (CH2Cl2) gives 63% pure product; melting point 149° C. The procedure in Examples 25-27 is analogous (see Table 2).

reactant | 2-fluoro-5,12-naphthacenequinone | 0.036 mol, 10 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | Cs2CO3 | 0.028 mol, 26 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-butanol | 0.14 mol, 10.41 g | CCC(C)O | C4H10O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(3-Butenoxy)-naphthacene-5,12-dione | 63% | C(CC=C)OC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C22H16O3
